US06498170B2
N-(5-{2-[1-(4-Butoxy-benzenesulfonyl)-azetidin-3-ylamino]-1-hydroxy-ethyl}-2-hydroxy-phenyl)-methanesulfonamide
To a solution of N-[5-((1R)-2-{benzyl-[1-(4-butoxy-benzenesulfonyl)-azetidin-3-yl]-amino}-1-triethylsilanyloxy-ethyl)-2-benzyloxy-phenyl]-methanesulfonamide (0.10 g, 0.12 mmol) in tetrahydrofuran (1 ml) was added 0.2 ml of tetrabutylammonium fluoride (1 M in THF). After 2 h at room temperature, the mixture was treated with water and extracted with ethyl acetate. The organic solution was dried over anhydrous sodium sulfate, and evaporated. The residue obtained was dissolved in methanol (3 ml), and treated with ammonium formate (0.12 g, 1.8 mmol) and 10% Pd/C (20 mg) at reflux for 18 h. It was then cooled to room temperature, filtered through Celite, and eluted with more methanol. The filtrate was evaporated, and the residue washed with ether-hexanes to give 55 mg of an off-white solid; m.p. 67-70° C.; MS (ES) m/z 514.0 (MH+); HRMS (FAB) Calcd. for C22H32N3O7S2 (MH+): 514.1682, Found: 514.1693.

reactant | N-[5-((1R)-2-{benzyl-[1-(4-butoxy-benzenesulfonyl)-azetidin-3-yl]-amino}-1-triethylsilanyloxy-ethyl)-2-benzyloxy-phenyl]-methanesulfonamide | 0.12 mmol, 0.10 g | C(C1=CC=CC=C1)N(C[C@H](O[Si](CC)(CC)CC)C=1C=CC(=C(C1)NS(=O)(=O)C)OCC1=CC=CC=C1)C1CN(C1)S(=O)(=O)C1=CC=C(C=C1)OCCCC | C42H57N3O7S2Si
reactant | tetrabutylammonium fluoride | 1 M, 0.2 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
reactant | ammonium formate | 1.8 mmol, 0.12 g | C(=O)[O-].[NH4+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | N-(5-{2-[1-(4-Butoxy-benzenesulfonyl)-azetidin-3-ylamino]-1-hydroxy-ethyl}-2-hydroxy-phenyl)-methanesulfonamide | 55 mg | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)N1CC(C1)NCC(O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C22H31N3O7S2
